US09216999B2
trans-4-(2,4-Dioxo-7-{[2-(trimethylsilyl)ethoxy]methyl}-2,3,4,7-tetrahydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-1-yl)cyclohexanecarbaldehyde
1-[trans-4-(Hydroxymethyl)cyclohexyl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione (107 mg, 0.240 mmol) in a mixture of toluene (1 mL) and dimethyl sulfoxide (0.25 mL) was mixed with 2-iodoxybenzoic acid (80.9 mg, 0.288 mmol) and stirred at 50° C. for 2 hours. After addition of saturated aqueous sodium thiosulfate and saturated aqueous sodium hydrogen carbonate, the reaction mixture was stirred at room temperature for 30 minutes, and extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1→7/3 (v/v)) to give the title compound as a colorless solid (70.1 mg, yield 66%).

reactant | 1-[trans-4-(Hydroxymethyl)cyclohexyl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione | 0.240 mmol, 107 mg | OC[C@@H]1CC[C@H](CC1)N1C(NC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O)=O | C22H32N4O4Si
reactant | 2-iodoxybenzoic acid | 0.288 mmol, 80.9 mg | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 0.25 mL | CS(=O)C | C2H6OS
product | trans-4-(2,4-Dioxo-7-{[2-(trimethylsilyl)ethoxy]methyl}-2,3,4,7-tetrahydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-1-yl)cyclohexanecarbaldehyde | 70.1 mg, yield 66% | O=C1NC(C2=C(N1[C@@H]1CC[C@H](CC1)C=O)C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C22H30N4O4Si
